US07932282B2
To a suspension of 3-methyl-2-oxo-1-[6-(trifluoromethyl)-4-pyrimidinyl]-4-imidazolidinecarboxylic acid (200 mg, 0.612 mmol) and N-ethylmorpholine (0.465 ml, 3.67 mmol) in dichloromethane (10 ml)/DMF (1 ml) was added 1-hydroxybenzotriazole hydrate (113 mg, 0.735 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (117 mg, 0.612 mmol) and the reaction mixture was stirred for 1 hour at room temperature. 1-(2-Chloro-3,4-difluorophenyl)methanamine (131 mg, 0.612 mmol) was then added and the reaction stirred overnight. Additional 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (117 mg, 0.612 mmol) was added and the reaction mixture was stirred for 3 hours. The reaction mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water, 3N citric acid solution, water then brine and separated through a hydrophobic frit and the organic layer concentrated under vacuum. The residue was purified by SP4 automated silica gel chromatography eluting with 10-100% ethyl acetate in isohexane to give N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-2-oxo-1-[6-(trifluoromethyl)-4-pyrimidinyl]-4-imidazolidinecarboxamide (95 mg, 33.8% yield). LC/MS [M+H]+=450, retention time=2.93 minutes.

reactant | 3-methyl-2-oxo-1-[6-(trifluoromethyl)-4-pyrimidinyl]-4-imidazolidinecarboxylic acid | 0.612 mmol, 200 mg | CN1C(N(CC1C(=O)O)C1=NC=NC(=C1)C(F)(F)F)=O | C10H9F3N4O3
reactant | N-ethylmorpholine | 3.67 mmol, 0.465 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.735 mmol, 113 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.612 mmol, 117 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(2-Chloro-3,4-difluorophenyl)methanamine | 0.612 mmol, 131 mg | ClC1=C(C=CC(=C1F)F)CN | C7H6ClF2N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.612 mmol, 117 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[(2-chloro-3,4-difluorophenyl)methyl]-3-methyl-2-oxo-1-[6-(trifluoromethyl)-4-pyrimidinyl]-4-imidazolidinecarboxamide | 95 mg, 33.8% yield | ClC1=C(C=CC(=C1F)F)CNC(=O)C1N(C(N(C1)C1=NC=NC(=C1)C(F)(F)F)=O)C | C17H13ClF5N5O2
